data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_67705_0,[C:1](/[C:3](=[C:5](\[C:2]([N:4]([H:9])[H:10])=[O:7])[H:11])[O:6][H:8])([H:12])([H:13])[H:14]>>[C:1]([C@:3]1([O:6][H:8])[C:5]([H:11])=[C:2]([N:4]([H:9])[H:10])[O:7]1)([H:12])([H:13])[H:14],47.81863750000994
MR_543684_0,[C:1]([N:9]([C:3](/[N:2]=[N:5]/[H:13])([C:4](=[C:6]([H:17])[H:18])[O:8][H:11])[O:7][H:10])[H:12])([H:14])([H:15])[H:16]>>[C:1](/[N:9]=[C:3](/[N:2]([C:4](=[C:6]([H:17])[H:18])[O:8][H:11])[N:5]([H:12])[H:13])[O:7][H:10])([H:14])([H:15])[H:16],54.39358250003167
MR_494087_1,[C:1]([C:5]([N:3](/[C:4]([N:6]([H:10])[H:11])=[C:7](/[C:2]([H:18])([H:19])[H:20])[H:12])[H:9])=[C:8]([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:1]([C:5]([C:7]([C:2]([H:18])([H:19])[H:20])(/[C:4](=[N:3]\[H:9])[N:6]([H:10])[H:11])[H:12])=[C:8]([H:16])[H:17])([H:13])([H:14])[H:15],60.94593749996776
MR_662085_2,[C:1]([C:3]([C:2]([H:13])([H:14])[H:15])=[O:8])([C:4]([C:5](=[O:9])[H:12])=[C:6]([H:16])[H:17])([O:7][H:10])[H:11]>>[C:1](=[C:4](/[C:5](=[O:9])[H:12])[C:6]([C:3]([C:2]([H:13])([H:14])[H:15])=[O:8])([H:16])[H:17])(\[O:7][H:10])[H:11],65.97786000003296
MR_18650_0,[C:1](\[C:2]([C:4]([N:5]([H:9])[H:10])([N:7]([H:11])[H:13])[H:8])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])=[N:6]/[H:12]>>[C:1]([C:2](/[C:4]([N:5]([H:9])[H:10])=[N:7]/[H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([N:6]([H:11])[H:12])[H:8],54.88742500003326
MR_629715_1,[C:1](\[C:3]([H:11])([H:12])[H:13])(=[C:5](\[C:4]([H:14])([H:15])[H:16])[O:8][H:9])[O:6][C:2](=[O:7])[H:10]>>[C:1]1([C:3]([H:11])([H:12])[H:13])([C:5]([C:4]([H:14])([H:15])[H:16])=[O:8])[C:2]([O:7][H:9])([H:10])[O:6]1,24.924927500026826
MR_146920_2,[C:1]([N:2]([C:3]([O:7][H:9])=[O:8])[C:4]([N:5]([H:10])[H:11])=[C:6]([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:1](/[N:2]=[C:3](\[O:7][H:9])[O:8][C:4]([N:5]([H:10])[H:11])=[C:6]([H:15])[H:16])([H:12])([H:13])[H:14],63.411384999985216
MR_260898_0,[C@@:1]12([C:2]([H:10])([H:11])[H:12])[C:5]([C:3]([H:13])([H:14])[H:15])([O:8][H:9])[C@@:6]1([C:4]([H:16])([H:17])[H:18])[O:7]2>>[C:1]1([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])[C:5]([O:8][H:9])=[C:6]([C:4]([H:16])([H:17])[H:18])[O:7]1,51.00194499999844
MR_489823_0,[C:1]1([O:5][H:10])([O:6][H:11])[C:3]([C:4]([C:2]([H:13])([H:14])[H:15])=[O:9])([O:7][H:12])[O:8]1>>[C:1]([C:3]([C:4]([C:2]([H:13])([H:14])[H:15])=[O:9])([O:7][H:12])[O:8][H:11])([O:5][H:10])=[O:6],16.918027499946504
MR_654799_0,[C@@:1]([C:2]([H:12])([H:13])[H:14])([C:4]([C:3]([H:15])([H:16])[H:17])=[O:8])([O:6][N:5]([H:10])[H:11])[O:7][H:9]>>[C@@:1]1([C:2]([H:12])([H:13])[H:14])([O:7][H:9])[C@:4]([C:3]([H:15])([H:16])[H:17])([O:6][N:5]([H:10])[H:11])[O:8]1,50.649917499995496
MR_27018_1,[C@:1]([C:2]([H:14])([H:15])[H:16])(/[C:4]([C:3]([H:17])([H:18])[H:19])=[C:7](/[N:6]([H:11])[H:12])[H:13])([N:5]([H:9])[H:10])[H:8]>>[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:4](/[C:3]([H:17])([H:18])[H:19])[C:7]([N:5]([H:9])[H:10])([N:6]([H:11])[H:12])[H:13])[H:8],62.5109225000115
MR_47116_2,[C:1](=[C:3]([O:4][C:2]([H:11])([H:12])[H:13])[N:6]([O:5][H:7])[H:8])([H:9])[H:10]>>[C:1](/[C:3]([O:4][C:2]([H:11])([H:12])[H:13])=[N:6]/[H:8])([O:5][H:7])([H:9])[H:10],50.34683500004732
MR_683834_1,[C:1]([C:4]([H:18])([H:19])[H:20])([N:5]([C:3]([H:15])([H:16])[H:17])[O:8][C:2]([H:12])([H:13])[H:14])([O:7][N:6]([H:10])[H:11])[H:9]>>[C:1]([C:4]([H:18])([H:19])[H:20])([N:5]([C:3]([H:15])([H:16])[H:17])[O:7][N:6]([H:10])[H:11])([O:8][C:2]([H:12])([H:13])[H:14])[H:9],62.87299000002477
MR_575798_1,[C:1](/[C:3](=[C:4](\[N:2](/[C:5](=[N:8]/[H:11])[H:13])[O:6][H:9])[H:12])[O:7][H:10])([H:14])([H:15])[H:16]>>[C:1]([C:3](/[C:4](=[N:2]/[O:6][H:9])[H:12])(/[C:5](=[N:8]/[H:11])[H:13])[O:7][H:10])([H:14])([H:15])[H:16],70.47138749999505
MR_449523_1,[C:1]([N:3]([C:4]([N:6]([H:11])[H:12])=[O:8])[O:7][H:10])([C:5]([C:2]([H:15])([H:16])[H:17])=[O:9])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[N:3]([O:7][H:10])[C@@:5]1([C:2]([H:15])([H:16])[H:17])[O:9][C:4]([N:6]([H:11])[H:12])=[O:8],68.7846674999733
MR_337657_1,[C:1]([N:3](/[C:4](=[C:6](/[C:2]([H:15])([H:16])[H:17])[H:11])[O:7][H:9])[C:5](=[O:8])[H:10])([H:12])([H:13])[H:14]>>[C:1](/[N:3]=[C:4](\[C@:6]([C:2]([H:15])([H:16])[H:17])([C:5](=[O:8])[H:10])[H:11])[O:7][H:9])([H:12])([H:13])[H:14],58.61289250000837
MR_126592_2,[C:1](/[N:8]=[C:4](\[N:5]([H:10])[H:11])[C:6]([C:2]([H:16])([H:17])[H:18])(/[N:7]=[N:3]/[H:9])[H:12])([H:13])([H:14])[H:15]>>[C:1](/[N:8]=[C:4](\[N:3](/[N:7]=[C:6](/[C:2]([H:16])([H:17])[H:18])[H:12])[H:9])[N:5]([H:10])[H:11])([H:13])([H:14])[H:15],61.945544999976505
MR_62093_1,[C:1]([C:2]([H:10])([H:11])[H:12])([O:5][O:6][C:3](=[C:4]([H:13])[H:14])[H:9])([H:7])[H:8]>>[C:1]([C:2]([H:10])([H:11])[H:12])([O:6][O:5][C:3](=[C:4]([H:13])[H:14])[H:9])([H:7])[H:8],65.70050499998416
MR_118525_0,[C@:1]([C@@:2]([C:4]([H:16])([H:17])[H:18])([O:7][H:9])[H:10])([C:3]([H:13])([H:14])[H:15])([N:5]([H:11])[H:12])[O:6][H:8]>>[C@@:1]([C@:2]([C:4]([H:16])([H:17])[H:18])([O:6][H:8])[H:10])([C:3]([H:13])([H:14])[H:15])([N:5]([H:11])[H:12])[O:7][H:9],68.0950450000023
